US09085582B2
Sodium carbonate (35.8 mg), phenylboronic acid (22.5 mg) and bis(triphenylphosphine)palladium(II) chloride (10.8 mg) were added to a 2-5 ml microwave vial. A solution of ethyl ((4S)-6-(4-chlorophenyl)-1-methyl-8-{[(trifluoromethyl)sulfonyl]oxy}-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl)acetate (for a preparation see Intermediate 2) (83.4 mg) in DME (3 ml) and water (1 ml) was added to the microwave vial. The reaction mixture was heated at 120° C. for 90 min (microwave). Ethyl acetate (2 ml) was added and the water layer was separated and acidified with glacial acetic acid. The water layer was extracted with ethyl acetate (3×5 ml) and the organic layer was dried and the solvent evaporated. The residue was chromatographed (0-10% methanol:DCM) to give [(4S)-6-(4-chlorophenyl)-1-methyl-8-phenyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]acetic acid as a white oil (30.1 mg), which was used without further purification in the subsequent reaction. LCMS (formate): MH+ 443/445, RT 1.09 min

reactant | Sodium carbonate | 35.8 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenylboronic acid | 22.5 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl ((4S)-6-(4-chlorophenyl)-1-methyl-8-{[(trifluoromethyl)sulfonyl]oxy}-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl)acetate | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)OS(=O)(=O)C(F)(F)F)C(=NN2)C)CC(=O)OCC | C22H18ClF3N4O5S
reactant | water | 1 ml | O | H2O
solvent | DME | 3 ml | COCCOC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 10.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | [(4S)-6-(4-chlorophenyl)-1-methyl-8-phenyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]acetic acid | 30.1 mg | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)C3=CC=CC=C3)C(=NN2)C)CC(=O)O | C25H19ClN4O2
